US07034039B2
To a solution of 4 tert-butyl(4-butoxy-2-cyclopropylmethyl-6-hydroxymethyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.45 g, 3.5 mmol) in tetrahydrofuran (10 mL) was added manganese dioxide (0.12 g) and the mixture was stirred at room temperature for 12 h. Manganese dioxide was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl(4-butoxy-2-cyclopropylmethyl-6-formyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.33 g, 76.7%) as crystals.

reactant | tert-butyl(4-butoxy-2-cyclopropylmethyl-6-hydroxymethyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 3.5 mmol, 0.45 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CO)=O)CC1CC1)=O | C24H34N2O5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 0.12 g | [O-2].[O-2].[Mn+4]
product | tert-butyl(4-butoxy-2-cyclopropylmethyl-6-formyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.33 g, 76.7% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=O)=O)CC1CC1)=O | C24H32N2O5
